US07659268B2
To a suspension of Pd(dba)2 (100 mg, 0.20 mmol) and PCy3 (130 mg, 0.50 mmol) in dioxane (8 mL) were added potassium acetate (920 mg, 9.4 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane (1.8 g, 7.1 mmol) and 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (2.0 g, 6.2 mmol). The mixture was heated at 80° C. overnight. The mixture was quenched with H2O and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography (0-5% ethyl acetate-petroleum ether) to afford 1,1,1,3,3,3-hexafluoro-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ol (870 mg, 38%). 1H NMR (CDCl3, 400 MHz) δ 7.89 (d, J=8.0 Hz, 2H), 7.71 (d, J=8.0 Hz, 2H), 3.50 (s, 1H), 1.35 (s, 12H).

reactant | PCy3 | 0.50 mmol, 130 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 9.4 mmol, 920 mg | C(C)(=O)[O-].[K+]
reactant | 1,3,2-dioxaborolane | 7.1 mmol, 1.8 g | O1BOCC1 | C2H5BO2
reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 6.2 mmol, 2.0 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dba)2 | 0.20 mmol, 100 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 1,1,1,3,3,3-hexafluoro-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ol | 870 mg, 38% | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C15H17BF6O3
